### PR TITLE
feat(OEIS): A056777

### LINKED ISSUE #1453: math.CO/0409509 number 33
### What is the conjecture

$$
\begin{equation}\text{composite $n$} \wedge \phi(n+12)=\phi(n)+12 \wedge \sigma(n+12)=\sigma(n)+12 \iff
n\equiv64\bmod72.\end{equation}
$$

### Prerequisites needed
Status: open

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [X] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by rwst**
Resolves #1453. The proof seems doable on undergraduate level.

### CODE REVIEW

File: FormalConjectures/OEIS/056777.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+- φ(n+12) = φ(n) + 12  (Euler's totient)
+- σ(n+12) = σ(n) + 12  (sum of divisors)
+
+then n ≡ 65 (mod 72).
+
+This conjecture, posed by R. Stephan, probably requires meticulous congruence case analysis
+of the φ and σ functions modulo 8 and 9.
+
+*References:*
+    * https://oeis.org/A056777
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/056777.lean]: Let's follow the usual markdown style from other files
```suggestion
*References:* [oeis.org/A056777](https://oeis.org/A056777)
```

File: FormalConjectures/OEIS/056777.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+/-!
+# **Conjecture: A056777**:
+If n is composite and satisfies both:
+- φ(n+12) = φ(n) + 12  (Euler's totient)
+- σ(n+12) = σ(n) + 12  (sum of divisors)
+
+then n ≡ 65 (mod 72).
+
+This conjecture, posed by R. Stephan, probably requires meticulous congruence case analysis
+of the φ and σ functions modulo 8 and 9.
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/056777.lean]:
```suggestion
```

File: FormalConjectures/OEIS/056777.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+
+*References:*
+    * https://oeis.org/A056777
+-/
+
+namespace OeisA056777
+
+@[category undergraduate, AMS 11]
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/056777.lean:75]: This tag is reserved to already solved problems - if this is solved, could you provide a reference?

File: FormalConjectures/OEIS/56777.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
...
+
+This conjecture, posed by R. Stephan, probably requires meticulous congruence case analysis
+of the φ and σ functions modulo 8 and 9.
+
+*References:*
+    * https://oeis.org/A056777
+-/
+
+namespace OeisA056777
+
```
Comment (Paul-Lez) [inline FormalConjectures/OEIS/56777.lean:34]: Let's also add an informal docstring here

File: FormalConjectures/OEIS/056777.lean (hunk 3 above)
Comment (rwst) [reply FormalConjectures/OEIS/056777.lean:75]: It is not. I stopped Claude before it went deeper.

**Comment by felixpernegger** [comment]
image
This seems to be the more interesting cnjecture on the webiste. This most likely also easily implies the other conjecture

File: FormalConjectures/OEIS/56777.lean
Comment (mo271) [inline FormalConjectures/OEIS/56777.lean:1]: A few remarks:

- please define the sequence (or the Prop on Nat for the sequence separately and then use it:
```lean
def a (n : ℕ) : Prop := (¬ n.Prime ∧ 1 < n) ∧
  Nat.totient (n + 12) = Nat.totient n + 12 ∧
  σ 1 (n + 12) = σ 1 n + 12
```
fine to use `a` in the namespace. Then let's perhaps also add some test statement checking that this gets the values 65 and 209 right?

- use latex markdown in docstrings througout.

- let's not repeat the conjecture in two place, only at the theorem, not the main docstring

 -  let's add a predicate for the other (related conjecture)
```lean
def comesFromPrimeQuadruple (n : ℕ) : Prop := ∃ p,
  p.Prime ∧ (p + 2).Prime ∧ (p + 6).Prime ∧ (p + 8).Prime ∧ n = p * (p + 8)
```
(with docstring)

then then theorems like
```lean
theorem a_of_comesFromPrimeQuadruple (n : ℕ) : comesFromPrimeQuadruple n → a n := by
```
(should be easy to proof (`undergraduate`) and its converse (should be harder to prove)

as well as the implication
```lean
 theorem conjecture_for_prime_quadruples (n : ℕ) : comesFromPrimeQuadruple n → n % 72 = 65 := by
```
 as tagged `undergraduate` since this is also not hard to see.

I guess we could also make up other conjectures like `n % 100 = 9` and `n%200 = 9`, both of which can be proved for $n>65$ when assuming `comesFromPrimeQuadruple n`. In that case we also might have  `n % 1800 = 209`.

Comment (rwst) [reply FormalConjectures/OEIS/56777.lean:1]: Done. Should any further (undergrad) proofs be added?

File: FormalConjectures/OEIS/56777.lean [hunk 5]
```diff
@@ -0,0 +1,90 @@
...
+/-- Numbers coming from prime quadruples satisfy $n \equiv 9 \pmod{100}$. -/
+@[category undergraduate, AMS 11]
+theorem mod_100_of_comesFromPrimeQuadruple (n : ℕ) (h : comesFromPrimeQuadruple n) :
+    n % 100 = 9 := by
+  sorry
+
+/-- All members of the sequence satisfy $n \equiv 65 \pmod{72}$. -/
+@[category research open, AMS 11]
+theorem mod_72_of_a (n : ℕ) (h : a n) : n % 72 = 65 := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]: Change this into the same format as ```mod_100_of_comesFromPrimeQuadruple``` as well

Comment (rwst) [reply FormalConjectures/OEIS/56777.lean]: Not sure, can you be more specific?

Comment (felixpernegger) [reply FormalConjectures/OEIS/56777.lean]: also change it into undergraduate and formulate it as an implication from the main conjecture

Comment (felixpernegger) [reply FormalConjectures/OEIS/56777.lean]: just like the other theorem/conjecture (the 100 mod thing)

File: FormalConjectures/OEIS/56777.lean [hunk 6]
```diff
@@ -0,0 +1,90 @@
...
+@[category test, AMS 11]
+theorem a_209 : a 209 := by
+  refine ⟨?_, by norm_num, ?_, ?_⟩
+  · native_decide
+  · native_decide
+  · native_decide
+
+/-- Numbers coming from prime quadruples are in the sequence A056777. -/
+@[category undergraduate, AMS 11]
+theorem a_of_comesFromPrimeQuadruple (n : ℕ) (h : comesFromPrimeQuadruple n) : a n := by
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]:
```suggestion
theorem a_of_comesFromPrimeQuadruple {n : ℕ} (h : comesFromPrimeQuadruple n) : a n := by
```
Similar most of the other theorems.
Generally, if ```n``` can be inferrd from later statements use { } instead of ()

File: FormalConjectures/OEIS/56777.lean [hunk 7]
```diff
@@ -0,0 +1,90 @@
...
+  sorry
+
+/-- All members of the sequence A056777 come from prime quadruples. -/
+@[category research open, AMS 11]
+theorem comesFromPrimeQuadruple_of_a (n : ℕ) (h : a n) : comesFromPrimeQuadruple n := by
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]: Phrase is with a forall quantifier and use the answer(sorry) format

Comment (mo271) [reply FormalConjectures/OEIS/56777.lean]: not needed here, since it it not a phrased as a question!

File: FormalConjectures/OEIS/56777.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/OEIS/56777.lean]: > also change it into undergraduate and formulate it as an implication from the main conjecture

but it could be true without going through the other conjecture, no?

File: FormalConjectures/OEIS/56777.lean [hunk 8]
```diff
@@ -0,0 +1,90 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+import FormalConjectures.Util.ProblemImports
+
+open scoped ArithmeticFunction
+
+/-!
+# **Conjectures associated with A056777**
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/56777.lean]: No need for bold here. This is already a title
```suggestion
# Conjectures associated with A056777
```

File: FormalConjectures/OEIS/56777.lean [hunk 9]
```diff
@@ -0,0 +1,90 @@
...
+  · native_decide
+  · native_decide
+
+/-- $209$ is in the sequence A056777. -/
+@[category test, AMS 11]
+theorem a_209 : a 209 := by
+  refine ⟨?_, by norm_num, ?_, ?_⟩
+  · native_decide
+  · native_decide
+  · native_decide
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/56777.lean]:
```suggestion
  refine ⟨?_, by norm_num, ?_⟩ <;> native_decide
```

File: FormalConjectures/OEIS/56777.lean (hunk 5 above)
Comment (rwst) [reply FormalConjectures/OEIS/56777.lean]: It is redundant. I removed it.

Comment (felixpernegger) [reply FormalConjectures/OEIS/56777.lean]: > > also change it into undergraduate and formulate it as an implication from the main conjecture
> 
> but it could be true without going through the other conjecture, no?

in theory I guess yeah, but it's more of an afterthought, since the ifrst conjecture probably holds. But why not I suppose

**Comment by rwst** [comment]
-awaiting-author

**Comment by rwst** [comment]
awaiting-review

**Comment by felixpernegger** [comment]
By the way way great your are adding your own conjectures from so long ago :)

File: FormalConjectures/OEIS/56777.lean [hunk 10]
```diff
@@ -0,0 +1,82 @@
...
+  ∃ p : ℕ, p.Prime ∧ (p + 2).Prime ∧ (p + 6).Prime ∧ (p + 8).Prime ∧
+    n = p * (p + 8)
+
+/-- $65$ is in the sequence A056777. -/
+@[category test, AMS 11]
+theorem a_65 : a 65 := by
+  refine ⟨?_, by norm_num, ?_, ?_⟩
+  · native_decide
+  · native_decide
+  · native_decide
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]: Don't use ```native_decide```

File: FormalConjectures/OEIS/56777.lean [hunk 11]
```diff
@@ -0,0 +1,82 @@
...
+
+/-- $209$ is in the sequence A056777. -/
+@[category test, AMS 11]
+theorem a_209 : a 209 := by
+  refine ⟨?_, by norm_num, ?_⟩ <;> native_decide
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]: Don't use ```native_decide```

**Comment by rwst** [comment]
The fact that these were not proven in 20 years should make them valuable, I thought, so don't lose them.

File: FormalConjectures/OEIS/56777.lean [hunk 12]
```diff
@@ -0,0 +1,88 @@
...
+def a (n : ℕ) : Prop :=
+  ¬n.Prime ∧ 1 < n ∧
+  Nat.totient (n + 12) = Nat.totient n + 12 ∧
+  σ 1 (n + 12) = σ 1 n + 12
+
+/-- A number $n$ comes from a prime quadruple $(p, p+2, p+6, p+8)$ if
+$n = p(p+8)$ for some prime $p$ where $p$, $p+2$, $p+6$, $p+8$ are all prime. -/
+def comesFromPrimeQuadruple (n : ℕ) : Prop :=
+  ∃ p : ℕ, p.Prime ∧ (p + 2).Prime ∧ (p + 6).Prime ∧ (p + 8).Prime ∧
+    n = p * (p + 8)
```
Comment (felixpernegger) [inline FormalConjectures/OEIS/56777.lean]:
```suggestion
def a (n : ℕ) : Prop :=
  ¬n.Prime ∧ 1 < n ∧ Nat.totient (n + 12) = Nat.totient n + 12 ∧ σ 1 (n + 12) = σ 1 n + 12

/-- A number $n$ comes from a prime quadruple $(p, p+2, p+6, p+8)$ if
$n = p(p+8)$ for some prime $p$ where $p$, $p+2$, $p+6$, $p+8$ are all prime. -/
def comesFromPrimeQuadruple (n : ℕ) : Prop :=
  ∃ p : ℕ, p.Prime ∧ (p + 2).Prime ∧ (p + 6).Prime ∧ (p + 8).Prime ∧ n = p * (p + 8)
```

Also open the namespace ```Nat``` to be able to use \phi and so on

File: FormalConjectures/OEIS/56777.lean [hunk 13]
```diff
@@ -0,0 +1,88 @@
...
+/-- A composite number $n$ is in the sequence A056777 if it satisfies both
+$\varphi(n+12) = \varphi(n) + 12$ and $\sigma(n+12) = \sigma(n) + 12$. -/
+def a (n : ℕ) : Prop :=
+  ¬n.Prime ∧ 1 < n ∧
+  Nat.totient (n + 12) = Nat.totient n + 12 ∧
+  σ 1 (n + 12) = σ 1 n + 12
+
+/-- A number $n$ comes from a prime quadruple $(p, p+2, p+6, p+8)$ if
+$n = p(p+8)$ for some prime $p$ where $p$, $p+2$, $p+6$, $p+8$ are all prime. -/
+def comesFromPrimeQuadruple (n : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/OEIS/56777.lean]:
```suggestion
def ComesFromPrimeQuadruple (n : ℕ) : Prop :=
```
